US07368474B2
3. b)2-{2-[2-(2-Mercapto-ethoxy)-ethoxy]-ethoxy}-ethanol
A solution of thiourea (0.94 g, 12.35 mmol) and toluene-4-sulfonic acid 2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy)-ethyl ester (4.09 g, 11.75 mmol) in absolute alcohol (32 ml) was heated to reflux under argon atmosphere for 24 h. The mixture was cooled and a solution of NaOH (1.23 g, 30.75 mmol) in 15 ml of ethanol/water (9:1, v/v) was added. Refluxing was continued for another 2.5 h under argon. The reaction mixture was then cooled to ambient temperature and acidified to pH 2 using concentrated hydrochloric acid and then concentrated under reduced pressure. The residue was purified by flash chromatography using ethyl acetate/absolute ethanol (10:1) to afford the product as a colourless oil. Yield 1.55 g (66%).

reactant | thiourea | 12.35 mmol, 0.94 g | NC(=S)N | CH4N2S
reactant | toluene-4-sulfonic acid 2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy)-ethyl ester | 11.75 mmol, 4.09 g | OCCOCCOCCOCCOS(=O)(=O)C1=CC=C(C=C1)C | C15H24O7S
reactant | NaOH | 30.75 mmol, 1.23 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 15 ml | C(C)O.O
product | 2-{2-[2-(2-Mercapto-ethoxy)-ethoxy]-ethoxy}-ethanol | SCCOCCOCCOCCO | C8H18O4S
